US07645771B2
At 0° C., to a stirred ice-water suspension (˜200 mL) of 2-chloro-5-(chlorosulfonyl)-4-fluorobenzoic acid was slowly added a precooled 40% methylamine (13 mL). The reaction mixture was then stirred for 2 hours before being acidified to pH˜2. The desired product was precipitated and filtered out. After being dried overnight, the pure 2-chloro-4-fluoro-5-[(methylamino)sulfonyl]benzoic acid was obtained as white solid (9.8 g, 100%).

reactant | 2-chloro-5-(chlorosulfonyl)-4-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)Cl | C7H3Cl2FO4S
reactant | methylamine | 13 mL | CN | CH5N
product | 2-chloro-4-fluoro-5-[(methylamino)sulfonyl]benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NC | C8H7ClFNO4S
